US07834181B2
2-Fluoro-8-(6-bromo-benzo[1,3]dioxol-5-ylmethyl)adenine:
A solution of 8-Benzo[1,3]dioxol-5-ylmethyl-2-fluoroadenine (45 mg, 0.157 mmol), NBS (56 mg, 0.314 mmol) in DMF (0.5 mL) was stirred at room temperature for 1.5 h. Following solvent removal, product (20 mg, 34.8%) was collected through silica gel column purification (CHCl3:EtOAc at 9:1 to 4:6). 1H NMR (400 MHz, acetone-d6) 7.51 (bs, 2H), 7.21 (s, 1H), 6.98 (s, 1H), 6.06 (s, 2H), 4.13 (s, 2H); MS m/z 366.0 (M+H)+.

reactant | 8-Benzo[1,3]dioxol-5-ylmethyl-2-fluoroadenine | 0.157 mmol, 45 mg | O1COC2=C1C=CC(=C2)CC2=NC1=NC(=NC(=C1N2)N)F | C13H10FN5O2
reactant | NBS | 0.314 mmol, 56 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-Fluoro-8-(6-bromo-benzo[1,3]dioxol-5-ylmethyl)adenine | FC1=NC(=C2NC(=NC2=N1)CC1=CC2=C(OCO2)C=C1Br)N | C13H9BrFN5O2
